US05708008
5-(methoxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
To a mixture of 10 mg (0.0437 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 15.0 mg (0.131 mMol) polyvinyl-pyridine in 3.0 mL dichloromethane were added 4.3 mg (0.0458 mMol) methyl chloroformate. The reaction mixture was mixed for 18 hours at ambient temperature. To this mixture were then added 170 mg (0.137 mMol) aminomethylated polystyrene and the reaction mixed for an additional 18 hours. The reaction mixture was then filtered and the volatiles evaporated to give 10.2 mg (81%) of the title compound.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0437 mMol, 10 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | methyl chloroformate | 0.0458 mMol, 4.3 mg | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 5-(methoxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 10.2 mg, 81% | COC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C16H21N3O2
